US05239084
A mixture of 4.76 g of (±)-4'-[1-(dimethylamino)ethyl]-2-methylbiphenyl, 2.94 g of hexamethylenetetramine and 30 mL of trifluoroacetic acid was heated to boiling under reflux for 5 days. The reaction mixture was then concentrated and treated with 100 mL of ice-water, whereupon it was stirred for 15 minutes, made basic with sodium carbonate and extracted with ether. After evaporation of the ethereal extracts and chromatography of the residue on silica gel with methylene chloride/methanol 9:1 as the elution agent there were obtained 2.8 g (52%) of (±)-4-[4'-(1-(dimethylamino)ethyl)phenyl]-2-methylbenzaldehyde as a yellow oil.

reactant | (±)-4'-[1-(dimethylamino)ethyl]-2-methylbiphenyl | 4.76 g | CN(C(C)C1=CC=C(C=C1)C1=C(C=CC=C1)C)C | C17H21N
reactant | hexamethylenetetramine | 2.94 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (±)-4-[4'-(1-(dimethylamino)ethyl)phenyl]-2-methylbenzaldehyde | 2.8 g, 52% | CN(C(C)C1=CC=C(C=C1)C1=CC(=C(C=O)C=C1)C)C | C18H21NO
